US05723681
1a) 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-trimethylsilylethynyl cyclohexan-1-one
n-Butyllithium (2.45M in hexanes, 5.7 mL, 13.96 mmol) was added dropwise over 5 min to a solution of trimethylsilylacetylene (1.97 mL, 13.96 mmol) dissolved in dry ether (30 mL) at -45° C. under an argon atmosphere. After 1.5 h, this solution was cannulated into a solution of dimethylaluminum chloride (1.0M in hexanes, 13.96 mL, 13.96 mmol). After 3.5 h at room temperature, the mixture was filtered through Celite® under an argon atmosphere. In a separate flask, diisobutylaluminum hydride (1.0M in toluene, 1.4 mL, 1.4 mmol) was added dropwise to a stirred mixture of nickel acetylacetonate (360 mg, 1.4 mmol) in dry ether (25 mL) at 0° C. under an argon atmosphere. After 10 min, the mixture was further cooled to -10° C. and the solution of aluminum acetylide was added via cannulation over 15 min. 3-(3-cyclopentyloxy-4-methoxyphenyl)cyclohex-2-en-1-one (2.0 g, 6.98 mmol, prepared as described in U.S. Pat. No. 5,362,915) dissolved in dry ether (70 mL) was added dropwise over 20 min. After 18 h at room temperature, the mixture was poured into a 100 mL saturated aqueous solution of potassium phosphate (monobasic) at 0° C., 100 mL of aqueous 3N HCl solution was added and the aqueous layer was extracted twice with ether. The combined extract was washed with brine, was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 2:1 hexanes/ether followed by trituration from ether/hexanes, then furthur purification of the mother liquor by flash chromatography, eluting with 4:1 hexanes/ethyl acetate followed by trituration from ether/hexanes, provided a white solid. mp 102°-103° C.

reactant | n-Butyllithium | 13.96 mmol, 2.45M, 5.7 mL | C(CCC)[Li]
reactant | trimethylsilylacetylene | 13.96 mmol, 1.97 mL | C[Si](C)(C)C#C | C5H10Si
reactant | dimethylaluminum chloride | 13.96 mmol, 1.0M, 13.96 mL | [Cl-].C[Al+]C
reactant | diisobutylaluminum hydride | 1.4 mmol, 1.0M, 1.4 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | aluminum acetylide | [C-]#[C-].[Al+3].[C-]#[C-].[C-]#[C-].[Al+3]
reactant | 3-(3-cyclopentyloxy-4-methoxyphenyl)cyclohex-2-en-1-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1=CC(CCC1)=O | C18H22O3
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | HCl | 3N | Cl | ClH
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | ether | 25 mL | CCOCC | C4H10O
solvent | ether | 70 mL | CCOCC | C4H10O
catalyst | nickel acetylacetonate | 1.4 mmol, 360 mg | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Ni+2]
product | 3-(3-cyclopentyloxy-4-methoxyphenyl)-3-trimethylsilylethynyl cyclohexan-1-one | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CC(CCC1)=O)C#C[Si](C)(C)C | C23H32O3Si
